US07304077B2
Step a: Methyl 3-{2-[(tert-butoxycarbonyl)amino]ethoxy}benzoate
To a solution of tert-butyl 2-bromoethylcarbamate (5 g) and methyl 3-hydroxybenzoate (3.4 g) in dimethylformamide (60 ml) was added caesium carbonate (14.5 g) and the reaction stirred for 12 hours before partitioning between water and ethyl acetate. The organic layer was separated, dried with MgSO4 and the solvent removed by evaporation. Purification by flash chromatography (ethyl acetate:isohexane 92.5:7.5) gave the sub-title product as a colourless oil (3 g).

reactant | tert-butyl 2-bromoethylcarbamate | 5 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | methyl 3-hydroxybenzoate | 3.4 g | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | caesium carbonate | 14.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Methyl 3-{2-[(tert-butoxycarbonyl)amino]ethoxy}benzoate | 3 g | C(C)(C)(C)OC(=O)NCCOC=1C=C(C(=O)OC)C=CC1 | C15H21NO5
